US04898872
2-Methoxy-6-(2-oxobenzimidazol-1-yl)-8-methylquinoline
This compound, m.p. 280°, was prepared similarly to Example 16 using 2-methoxy-6-[(N-2-aminophenyl)-amino]-8-methylquinoline, and carbonyl diimidazole as starting materials. The product was characterised spectroscopically and used directly in Example 3 without further purification.

reactant | 2-methoxy-6-[(N-2-aminophenyl)-amino]-8-methylquinoline | COC1=NC2=C(C=C(C=C2C=C1)NC1=C(C=CC=C1)N)C | C17H17N3O
reactant | carbonyl diimidazole | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
product | 2-Methoxy-6-(2-oxobenzimidazol-1-yl)-8-methylquinoline | COC1=NC2=C(C=C(C=C2C=C1)N1C(NC2=C1C=CC=C2)=O)C | C18H15N3O2
